US04272537
To a solution of 3,5-diamino-6-chloropyrazinoic acid (1.13 g., 0.006 mole) in dimethylformamide (50 ml.) is added 1,1'-carbonyldiimidazole (0.972 g., 0.006 mole). The reaction mixture is stirred for 1 hour in a nitrogen atmosphere to form, in situ, 1-(3,5-diamino-6-chloropyrazinoyl)imidazole, which is treated with 2-amino-3,4-dihydro-4,4-dimethyl-6-methylthio-1,3,5-triazine. The reaction mixture is heated at 95° for 3 hours and cooled to give 1.3 g. of 3,5-diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-methylthio-1,3,5-triazin-2-yl)-2-pyrazinecarboxamide which melts at 232°-4° C.

reactant | 3,5-diamino-6-chloropyrazinoic acid | 0.006 mole, 1.13 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)O | C5H5ClN4O2
reactant | 1,1'-carbonyldiimidazole | 0.006 mole, 0.972 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(3,5-diamino-6-chloropyrazinoyl)imidazole | NC=1C(=NC(=C(N1)N)Cl)C(=O)N1C=NC=C1 | C8H7ClN6O
